US06583135B2
Preparation of 2-(3-Benzoyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indol-10-yl)phenol
A 0° C. solution of 3-benzoyl-10-(2-methoxyphenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (936 mg, 2.36 mmol) in CH2Cl2 (20 mL) was treated with BBr3 (0.75 mL, 7.94 mmol). The reaction was stirred at room temperature under nitrogen for 16.5 hours. The reaction was cooled to 0° C. and slowly quenched with saturated NH4Cl solution. After stirring at room temperature for 1.7 hours the reaction was extracted with CH2Cl2. The organic layer was dried over MgSO4 and concentrated in vacuo to give 792 mg (88%) of a yellow foam as the title compound: MS m/z 383.3 (M++H).

reactant | 3-benzoyl-10-(2-methoxyphenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 2.36 mmol, 936 mg | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC=C(C3C2CC1)C1=C(C=CC=C1)OC | C26H24N2O2
reactant | BBr3 | 7.94 mmol, 0.75 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-Benzoyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indol-10-yl)phenol | 792 mg, 88% | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC=C(C3C2CC1)C1=C(C=CC=C1)O | C25H22N2O2
